US07718645B2
4-Amino-6-{4-[4-(1H-tetrazol-5-ylmethyl)-cyclohexyl]-phenyl}-7,8-dihydro-6H-9-oxa-1,3,6-triaza-benzocyclohepten-5-one
To a cooled 0° C., stirred solution of trimethylaluminum (2M in toluene, 0.33 mL) in toluene (0.66 mL) were added trimethylsilylazide (0.86 mL) and {trans-4-[4-(4-amino-5-oxo-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-6(5H)-yl)phenyl]cyclohexyl}acetonitrile (25 mg). This mixture was heated at 80° C. for 40 hours, cooled, concentrated in vacuo and chromatographed (4 g silica gel column, 0-10% methanol:chloroform) to afford the title compound as a white solid, 2.8 mg. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.96-1.28 (m, 2 H) 1.25-1.45 (m, 2H) 1.62-1.80 (m, 5H) 2.31-2.50 (m, 1H) 2.62-2.76 (m, 2H) 3.85-3.95 (m, 2H) 4.45-4.57 (m, 2H) 7.13-7.29 (m, 4H) 7.55 (br. s., 2H) 8.10 (s, 1H) m/z=421.3 (M+1). IC50 76.2 nM (range 47.5-163 nM).

reactant | trimethylaluminum | 2M, 0.33 mL | C[Al](C)C
reactant | trimethylsilylazide | 0.86 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | {trans-4-[4-(4-amino-5-oxo-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-6(5H)-yl)phenyl]cyclohexyl}acetonitrile | 25 mg | NC1=NC=NC2=C1C(N(CCO2)C2=CC=C(C=C2)[C@@H]2CC[C@H](CC2)CC#N)=O | C21H23N5O2
solvent | toluene | 0.66 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Amino-6-{4-[4-(1H-tetrazol-5-ylmethyl)-cyclohexyl]-phenyl}-7,8-dihydro-6H-9-oxa-1,3,6-triaza-benzocyclohepten-5-one | NC1=NC=NC=2OCCN(C(C21)=O)C2=CC=C(C=C2)C2CCC(CC2)CC2=NN=NN2 | C21H24N8O2
